US06900243B2
a) [3-(5-Chloro-2-cyano-4-fluorophenoxy)-4,4,4-trifluorobutyl]methylcarbamic acid, 1,1-dimethylethyl ester
The subtitle compound was prepared according to the method of Example 3 step (b) using methyl-(4,4,4-trifluoro-3-hydroxybutyl)carbamic acid, 1,1-dimethylethyl ester and 4-chloro-2,5-difluorobenzonitrile in N,N-dimethylformamide.

reactant | methyl-(4,4,4-trifluoro-3-hydroxybutyl)carbamic acid, 1,1-dimethylethyl ester | CN(C(OC(C)(C)C)=O)CCC(C(F)(F)F)O | C10H18F3NO3
reactant | 4-chloro-2,5-difluorobenzonitrile | ClC1=CC(=C(C#N)C=C1F)F | C7H2ClF2N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [3-(5-Chloro-2-cyano-4-fluorophenoxy)-4,4,4-trifluorobutyl]methylcarbamic acid, 1,1-dimethylethyl ester | ClC=1C(=CC(=C(OC(CCN(C(OC(C)(C)C)=O)C)C(F)(F)F)C1)C#N)F | C17H19ClF4N2O3
